US05089509
2-(2-(4,4-Dimethylchroman-6-yl)ethynyl)-5-(1-hydroxypropyl)pyridine
Four ml of a 3M (12 mmol) solution of ethylmagnesium bromide in ether is placed in a 3-necked flask fitted with a mechanical stirrer, a reflux condenser protected by a drying tube and a pressure-equalizing dropping funnel protected by a drying tube. The flask is cooled in an ice bath and a solution of 2.8 g (10 mmol) of 2-(2-(4,4-Dimethylchroman-6-yl)ethynyl)pyridine-5-carboxaldehyde in 10 ml of dry ether is added slowly with vigorous stirring. The cooling bath is then removed and the mixture heated at reflux for 3 hours. The mixture is then cooled in an ice-salt bath and 5 ml of saturated ammonium chloride solution added. The mixture is stirred for a further 1 hour and then filtered and the residue washed with two 10 ml portions of ether. The ether solution is then separated, dried (MgSO4) and the ether removed in vacuo. The residue is then purified by chromatography followed by recrystallization to give the title compound.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 2-(2-(4,4-Dimethylchroman-6-yl)ethynyl)pyridine-5-carboxaldehyde | 10 mmol, 2.8 g | CC1(CCOC2=CC=C(C=C12)C#CC1=NC=C(C=C1)C=O)C | C19H17NO2
solvent | ether | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 2-(2-(4,4-Dimethylchroman-6-yl)ethynyl)-5-(1-hydroxypropyl)pyridine | CC1(CCOC2=CC=C(C=C12)C#CC1=NC=C(C=C1)C(CC)O)C | C21H23NO2
